* Z:\mnt\design.r\spice\examples\1413A.asc
V1 +V 0 9
R1 OUT N001 10Meg
R2 N001 0 1Meg
R3 N001 N002 10Meg
R4 N004 0 1Meg
R5 N004 0 10Meg
R6 N004 N003 10Meg
V2 N002 N003 SINE(-2 1 1K)
V3 N003 0 SINE(45 40 100)
XU1 N004 N001 +V 0 OUT LT1413
.tran 10m
.lib LTC.lib
.backanno
.end
